US06514971B1
The starting material, 4-(5-benzyloxy-2-fluoro-4-methylphenoxy)-6-methoxy-7-(2-methoxyethoxy)cinnoline was obtained by heating a solution of 5-benzyloxy-2-fluoro-4-methylphenol (314 mg, 1.3 mmol) and 4-chloro-6-methoxy-7-(2-methoxyethoxy)cinnoline (280 mg, 1 mmol), (prepared as described for the starting material in Example 2), in pyridine (6 ml), at reflux for 15 hours. After evaporation of the solvent, the residue was partitioned between ethyl acetate and water adjusted to pH7. The organic layer was separated, washed with water and then brine, dried (MgSO4) and the solvent evaporated. The residue was purified by flash chromatography using methylene chloride/ether (4/6 followed by 3/7) as eluent to give 4-(5-benzyloxy-2-fluoro-4-methylphenoxy)-6-methoxy-7-(2-methoxyethoxy)cinnoline as a white solid (247 mg, 53%).

reactant | 5-benzyloxy-2-fluoro-4-methylphenol | 1.3 mmol, 314 mg | C(C1=CC=CC=C1)OC=1C(=CC(=C(C1)O)F)C | C14H13FO2
reactant | 4-chloro-6-methoxy-7-(2-methoxyethoxy)cinnoline | 1 mmol, 280 mg | ClC1=CN=NC2=CC(=C(C=C12)OC)OCCOC | C12H13ClN2O3
solvent | pyridine | 6 ml | N1=CC=CC=C1 | C5H5N
product | 4-(5-benzyloxy-2-fluoro-4-methylphenoxy)-6-methoxy-7-(2-methoxyethoxy)cinnoline | 247 mg, 53% | C(C1=CC=CC=C1)OC=1C(=CC(=C(OC2=CN=NC3=CC(=C(C=C23)OC)OCCOC)C1)F)C | C26H25FN2O5
